US07544697B2
Potassium acetate (3.9 g, 39.5 mmol) was added to a solution of 1-ethyl-5-(2-phthalimidoethyl)-1H-pyrazole-3-carbonitrile (7.73 g, 26.3 mmol) in acetic acid (37.5 mL) and dichloromethane (75 mL). Bromine (5.88 g, 36.8 mmol) was added, and the reaction was stirred for 14 hours. A precipitate was present. Saturated aqueous sodium hydrogensulfite was added, and the dichloromethane was removed under reduced pressure. Water (500 mL) was added with stirring, and the resulting solid was isolated by filtration, washed with water, and dried on the filter funnel to provide 4-bromo-1-ethyl-5-(2-phthalimidoethyl)-1H-pyrazole-3-carbonitrile.

reactant | Potassium acetate | 39.5 mmol, 3.9 g | C(C)(=O)[O-].[K+]
reactant | 1-ethyl-5-(2-phthalimidoethyl)-1H-pyrazole-3-carbonitrile | 26.3 mmol, 7.73 g | C(C)N1N=C(C=C1CCN1C(C=2C(C1=O)=CC=CC2)=O)C#N | C16H14N4O2
reactant | Bromine | 36.8 mmol, 5.88 g | BrBr | Br2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 37.5 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 4-bromo-1-ethyl-5-(2-phthalimidoethyl)-1H-pyrazole-3-carbonitrile | BrC=1C(=NN(C1CCN1C(C=2C(C1=O)=CC=CC2)=O)CC)C#N | C16H13BrN4O2
